US06335324B1
a) 1-Naphthylmethylisocyanate
A solution of phosgene (20% in toluene, 5 ml) was diluted with toluene (10 ml). A mixture of 1-naphthalenemethylamine (500 μl, 3.41 mmol), triethylamine (0.95 ml, 6.82 mmol) in toluene (5 ml) was added dropwise. The reaction mixture was heated at reflux overnight. The mixture was cooled to room temperature, and the solvent was removed. The residue was stirred with ether (50 ml) for 10 minutes and filtered. The filtrate was concentrated to give the crude product which was purified by flash chromatography (silica gel, methylene chloride) to give the desired product (518 mg) as a colorless oil. IR 2260 cm−1.

reactant | phosgene | 5 ml | C(=O)(Cl)Cl | CCl2O
reactant | 1-naphthalenemethylamine | 3.41 mmol, 500 μl | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
reactant | triethylamine | 6.82 mmol, 0.95 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Naphthylmethylisocyanate | 518 mg | C1(=CC=CC2=CC=CC=C12)CN=C=O | C12H9NO
